US04160032
3-(2-nitro-4-chlorophenyl)pyruvic acid
To a cooled mixture prepared by adding 13.6 g. of sodium to 300 ml. of ethanol is added a solution of 100 g. of 4-chloro-2-nitrotoluene and 84 g. of diethyloxalate in 150 ml. of ethanol while maintaining the temperature below 20° C. The resulting mixture is refluxed for one hour, cooled, 400 ml. of water added and the resulting mixture refluxed for 90 minutes. The ethanol is then evaporated to a small volume and the resulting precipitate contains tan and black material and the black material is mechanically separated and discarded and the remainder (filtrate plus tan precipitate) used in the next step.

reactant | sodium | [Na] | Na
reactant | ethanol | C(C)O | C2H6O
reactant | 4-chloro-2-nitrotoluene | ClC1=CC(=C(C=C1)C)[N+](=O)[O-] | C7H6ClNO2
reactant | diethyloxalate | C(C)OC(C(=O)OCC)=O | C6H10O4
solvent | water | O | H2O
product | 3-(2-nitro-4-chlorophenyl)pyruvic acid | [N+](=O)([O-])C1=C(C=CC(=C1)Cl)CC(C(=O)O)=O | C9H6ClNO5
